US07566712B2
Dissolve 2,3-dichloropyridine (7.4 g, 0.05 moles) and (S)-(−)-2-methylpiperazine (5.0 g, 0.05 moles) in DMA (125.0 mL) under nitrogen atmosphere. Add anhydrous powdered K2CO3 (20.75 g, 0.15 moles) to this mixture and stir at 135-140° C. for 56 hours. Cool the reaction mixture to room temperature, dilute with water (400 mL), extract with EtOAc (3×200 mL) and wash the combined organic extract with brine (2×150 mL). Dry over MgSO4, and concentrate under vacuum to afford crude product as yellow liquid. Purify by flash column chromatography using CHCl3 to afford pyridylpiperazine derivative as yellow viscous oil.

reactant | 2,3-dichloropyridine | 0.05 moles, 7.4 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | (S)-(−)-2-methylpiperazine | 0.05 moles, 5.0 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | K2CO3 | 0.15 moles, 20.75 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 125.0 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 400 mL | O | H2O
product | pyridylpiperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
